US07829560B2
4-Bromo-naphthalen-1-yl)-carbamic acid tert-butyl ester (3.669 g, 11.4 mmol), 1-hexeneylboronic acid (2.18 g, 17.1 mmol), cesium carbonate (7.4 g, 22.8 mmol) and tetrakistriphenylphosphine palladium(0) (50 mg) in dioxane (35 ml) are heated to 100° C. under a nitrogen atmosphere for 24 hours. The mixture is then cooled to room temperature and poured into ethyl acetate (300 ml) and washed with water (2×200 ml). The ethyl acetate layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is taken up in dioxane (40 mol), t-butanol (40 ml) and water (10 ml) and osmium tetroxide 2.5% wt in t-butanol (0.1 ml) added. Sodium periodate (10 g) is then added in portions over 15 mins and the mixture allowed to stir at room temperature for 24 hours. The mixture is then poured into ethyl acetate (250 ml) and washed with water (300 ml). The ethyl acetate layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is purified by column chromatography on silica gel eluted with 7.5% ethyl acetate in hexanes to give (4-formyl-naphthalen-1-yl)-carbamic acid tert-butyl ester as a light brown solid (923 mg). 1H NMR 300 MHz (CDCl3) 10.25 (s, 1H), 9.4 (d, 1H, J=8.7 Hz), 8.35 (d, 1H, J=5.7 Hz), 7.95 (d, 1H, J=5.7 Hz), 7.9 (d, 1H, J=8.7 Hz), 7.6-7.75 (m 2H), 7.3 (s, 1H), 1.5 (s, 9H).

reactant | carbamic acid tert-butyl ester | 11.4 mmol, 3.669 g | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | 1-hexeneylboronic acid | 17.1 mmol, 2.18 g | C(=CCCCC)B(O)O | C6H13BO2
reactant | cesium carbonate | 22.8 mmol, 7.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Sodium periodate | 10 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | t-butanol | 0.1 ml | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | t-butanol | 40 ml | C(C)(C)(C)O | C4H10O
solvent | dioxane | 40 mol | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | (4-formyl-naphthalen-1-yl)-carbamic acid tert-butyl ester | 923 mg | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)C=O)=O | C16H17NO3
